US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((4-(pyrrolidin-1-ylmethyl)phenyl)amino)quinolin-3-yl)ethanone
Following general procedure D, 1-(6-bromo-4-((4-(pyrrolidin-1-ylmethyl)phenyl)amino)quinolin-3-yl)ethanone (42.4 mg, 0.10 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (38.4 mg, 0.133 mmol) to afford the desired product (28.4 mg, 56%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.17 (s, 1H), 8.02-7.94 (m, 2H), 7.77 (s, 1H), 7.55 (d, J=8.4 Hz, 2H), 7.32 (d, J=8.4 Hz, 2H), 7.20 (s, 2H), 4.41 (s, 2H), 3.27 (br s, 4H), 2.78 (s, 3H), 2.07 (br s, 4H). ESI MS m/z 506 [C28H25Cl2N3O2+H]+; HPLC 95.1% (AUC), tR=10.81 min.

reactant | 1-(6-bromo-4-((4-(pyrrolidin-1-ylmethyl)phenyl)amino)quinolin-3-yl)ethanone | 0.10 mmol, 42.4 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN1CCCC1 | C22H22BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.133 mmol, 38.4 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((4-(pyrrolidin-1-ylmethyl)phenyl)amino)quinolin-3-yl)ethanone | 28.4 mg, 56% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN1CCCC1 | C28H25Cl2N3O2
